US04022769
A solution of 17β-hydroxy-1α-methyl-4-androsten-19-one propionate and sodium carbonate in aqueous methanol is refluxed under nitrogen for approximately 2 hours and poured onto water. The oil which forms is extracted with ether. The ether extract is washed with water, dried over sodium sulfate, and concentrated under reduced pressure. The residue which remains is eluted from silica gel with benzene and crystallized from hexane to yield 17β-hydroxy-1α-methyl-4-androsten-19-one.

reactant | 17β-hydroxy-1α-methyl-4-androsten-19-one propionate | C(CC)(=O)O.O[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CCC3=CCC[C@@H]([C@]3(C=O)[C@H]1CC2)C
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | methanol | CO | CH4O
product | 17β-hydroxy-1α-methyl-4-androsten-19-one | O[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CCC3=CCC[C@@H]([C@]3(C=O)[C@H]1CC2)C | C20H30O2
